US07294629B2
A solution (9 mL) of (7-bromo-6-nitro-4-quinazolinyl)-(3-chloro-4-fluorophenyl)amine (3.0 g, 7.55 mmol) obtained by a treatment, with triethylamine in water-methanol, of (7-bromo-6-nitro-4-quinazolinyl)-(3-chloro-4-fluorophenyl)amine hydrochloride produced according to the method described in Synthetic Example 4, acetylene 4ab (1.76 g, 9.06 mmol) synthesized according to the method of Synthetic Example 1 and triethylamine (60 mL) in DMF solution was subjected 3 times to the step of degassing under reduced pressure and displacement with nitrogen. Triphenylphosphine (118 mg, 0.46 mmol) and palladium (II) acetate (51 mg, 0.23 mmol) were added. The mixture was stirred at 80° C. for 3 hrs and allowed to cool to room temperature. The solvent was evaporated under reduced pressure and aqueous sodium hydrogen carbonate was added to the residue. The mixture was extracted with ethyl acetate, and the organic layer was washed successively with water (×3) and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to give a nitro compound 3ab.

reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | (7-bromo-6-nitro-4-quinazolinyl)-(3-chloro-4-fluorophenyl)amine hydrochloride | Cl.BrC1=C(C=C2C(=NC=NC2=C1)NC1=CC(=C(C=C1)F)Cl)[N+](=O)[O-]
solvent | water methanol | O.CO
product | (7-bromo-6-nitro-4-quinazolinyl)-(3-chloro-4-fluorophenyl)amine | 7.55 mmol, 9 mL, 3.0 g | BrC1=C(C=C2C(=NC=NC2=C1)NC1=CC(=C(C=C1)F)Cl)[N+](=O)[O-] | C14H7BrClFN4O2
